US05932606
Step B: 3,3-Bis-(4'-methoxyphenyl)-2-nitropropionic acid ethyl ester
To a stirred (0° C.) solution of bis-(4-methoxyphenyl)methanol (2.5 g, 10.2 mmol) and ethyl nitroacetate (2.26 ml, 20.4 mmol) in CH2Cl2 (50 ml) under argon was added AlCl3 (1.36 g, 10.2 mmol) in one portion. After 1 h, the reaction mixture was allowed to warm to approximately 10° C. and poured into a mixture of ice and 2M HCl. The resulting mixture was stirred for 45 min, and the aqueous layer extracted with CH2Cl2. The combined organic layers were washed with 10% Na2CO3, dried over MgSO4, treated with activated carbon, and concentrated to give a reddish oil that was chromatographed (CHCl3 elution) to afford the title compound as a colorless oil.

reactant | bis-(4-methoxyphenyl)methanol | 10.2 mmol, 2.5 g | COC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OC | C15H16O3
reactant | ethyl nitroacetate | 20.4 mmol, 2.26 ml | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | AlCl3 | 10.2 mmol, 1.36 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 2M | Cl | ClH
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 3,3-Bis-(4'-methoxyphenyl)-2-nitropropionic acid ethyl ester | C(C)OC(C(C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)[N+](=O)[O-])=O | C19H21NO6
